US03973945
Preparation of 3-(1-allyloxyamino-1-hydroxypropyl)-6-ethyl-3,4-dihydro-2H-pyrane-2,4-dione
1.0 g of 3-(1-allyloxyaminopropylidene)-6-ethyl-3,4-dihydro-2H-pyrane-2,4-dione (ND26.5 :1.5389) was dissolved in 50ml of acetone containing 5% of water. After it was poured shallowly into the vessel having an area of (30×35)cm2, it was allowed to stand for a day in the sunlight. 630mg of the crude product was obtained by the distillation of methanol after the precipitated crystal on the container was recovered by washing with methanol. The crude product was recrystallized three times from the mixture of ethanol and water and 300mg of 3-(1-allyloxyamino-1-hydroxypropyl)-6-ethyl-3,4-dihydro-2H-pyrane-2,4-dione having a melting point of 62.5° to 64°C as a white crystal was obtained.

reactant | 3-(1-allyloxyaminopropylidene)-6-ethyl-3,4-dihydro-2H-pyrane-2,4-dione | 1.0 g | C(C=C)ONC(CC)=C1C(OC(=CC1=O)CC)=O | C13H17NO4
reactant | methanol | CO | CH4O
solvent | acetone | 50ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-(1-allyloxyamino-1-hydroxypropyl)-6-ethyl-3,4-dihydro-2H-pyrane-2,4-dione | 630mg | C(C=C)ONC(CC)(O)C1C(OC(=CC1=O)CC)=O | C13H19NO5
